.title kicad schematic

* u3 net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ hamming_ecc
* u4 net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ /data_out3 /data_out2 /data_out1 /data_out0 /error_detected0 dac_bridge_5
* u2 /error_inject4 /error_inject3 /error_inject2 /error_inject1 /error_inject0 net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ adc_bridge_5
* u1 /clk /rst /data_in3 /data_in2 /data_in1 /data_in0 /error_inject6 /error_inject5 net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ adc_bridge_8
a1 [net-_u1-pad9_ ] [net-_u1-pad10_ ] [net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ ] [net-_u1-pad15_ net-_u1-pad16_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] [net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ ] [net-_u3-pad18_ ] u3
a2 [net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ ] [/data_out3 /data_out2 /data_out1 /data_out0 /error_detected0 ] u4
a3 [/error_inject4 /error_inject3 /error_inject2 /error_inject1 /error_inject0 ] [net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] u2
a4 [/clk /rst /data_in3 /data_in2 /data_in1 /data_in0 /error_inject6 /error_inject5 ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] u1
* Schematic Name:                             hamming_ecc, Ngspice Name: hamming_ecc
.model u3 hamming_ecc(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_5, Ngspice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_5, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
