* /home/ayush/eSim-Workspace/highspeedfulladdr/highspeedfulladdr.cir



.subckt highspeedfulladdr VDD GND A B C SUM CARRY

xQ1  VDD A GND VDD sky130_fd_pr__pfet_01v8 W=1 L=0.5	
xQ2  GND A GND GND sky130_fd_pr__nfet_01v8 W=0.42 L=0.5 		
xQ3  A B Net-_Q3-Pad3_ A sky130_fd_pr__pfet_01v8 W=1 L=0.5		
xQ4  Net-_Q3-Pad3_ B GND GND sky130_fd_pr__nfet_01v8 W=0.42 L=0.5 	
xQ5  VDD Net-_Q3-Pad3_ GND VDD sky130_fd_pr__pfet_01v8 W=1 L=0.5 		
xQ6  GND Net-_Q3-Pad3_ GND GND sky130_fd_pr__nfet_01v8 W=0.42 L=0.5	
xQ7  Net-_Q3-Pad3_ C SUM Net-_Q3-Pad3_ sky130_fd_pr__pfet_01v8 W=1 L=0.5		
xQ8  SUM C GND GND sky130_fd_pr__nfet_01v8 W=0.42 L=0.5 		
xQ10  B A CARRY CARRY sky130_fd_pr__nfet_01v8 W=0.42 L=0.5	
xQ9  C Net-_Q3-Pad3_ CARRY CARRY sky130_fd_pr__nfet_01v8 W=0.42 L=0.5 


.ends highspeedfulladdr

