.title kicad schematic

.include I2Ssub.sub
i1 /vdd_5v gnd  dc -5
v1 /bclk_label gnd pulse(0 5 0 1n 1n 49n 100n)
v2 /rst_label gnd pulse(5 0 150n 1n 1n 1000m 1000m)
x1 /bclk_label /rst_label /vdd_5v gnd /vdd_5v gnd /vdd_5v gnd /vdd_5v gnd /vdd_5v gnd /vdd_5v gnd /vdd_5v gnd /vdd_5v gnd /vdd_5v /vdd_5v /vdd_5v /vdd_5v gnd gnd gnd gnd /vdd_5v /vdd_5v /vdd_5v /vdd_5v gnd gnd gnd gnd /lrclk_label /sdata_label I2Ssub
* u2 /sdata_label plot_v1
* u1 /lrclk_label plot_v1
.tran 10e-09 10e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(/sdata_label)
plot v(/lrclk_label)
.endc
.end
