* c:\users\yamin\esim-workspace\interrupt_controller\interrupt_controller.cir

* u9  clk net-_u8-pad1_ adc_bridge_1
* u10  rst net-_u10-pad2_ adc_bridge_1
* u11  irq3 net-_u11-pad2_ adc_bridge_1
* u12  irq2 net-_u12-pad2_ adc_bridge_1
* u13  irq1 net-_u13-pad2_ adc_bridge_1
* u14  irq0 net-_u14-pad2_ adc_bridge_1
* u15  ack0 net-_u15-pad2_ adc_bridge_1
* u16  net-_u16-pad1_ intr dac_bridge_1
* u17  net-_u17-pad1_ int_id_0 dac_bridge_1
* u7  clk plot_v1
* u6  rst plot_v1
* u5  irq3 plot_v1
* u4  irq2 plot_v1
* u3  irq1 plot_v1
* u2  irq0 plot_v1
* u1  ack0 plot_v1
* u19  intr plot_v1
* u20  int_id_0 plot_v1
v8 vcc gnd  dc 5
v1  clk gnd pulse(0 5 0.5 0 0 0.5 1)
v2  rst gnd pulse(5 0 0.5 0 0 8 16)
v3  irq3 gnd pulse(0 5 4 0 0 4 8)
v4  irq2 gnd pulse(0 5 2 0 0 2 4)
v6  irq0 gnd pulse(0 5 0.5 0 0 0.5 1)
v7  ack0 gnd pulse(0 5 1 0 0 1 2)
v5  irq1 gnd pulse(0 5 1 0 0 1 2)
* u18  net-_u18-pad1_ int_id_1 dac_bridge_1
* u21  int_id_1 plot_v1
* u8  net-_u8-pad1_ net-_u10-pad2_ net-_u11-pad2_ net-_u12-pad2_ net-_u13-pad2_ net-_u14-pad2_ net-_u15-pad2_ net-_u16-pad1_ net-_u17-pad1_ net-_u18-pad1_ interrupt_controller_ip
a1 [clk ] [net-_u8-pad1_ ] u9
a2 [rst ] [net-_u10-pad2_ ] u10
a3 [irq3 ] [net-_u11-pad2_ ] u11
a4 [irq2 ] [net-_u12-pad2_ ] u12
a5 [irq1 ] [net-_u13-pad2_ ] u13
a6 [irq0 ] [net-_u14-pad2_ ] u14
a7 [ack0 ] [net-_u15-pad2_ ] u15
a8 [net-_u16-pad1_ ] [intr ] u16
a9 [net-_u17-pad1_ ] [int_id_0 ] u17
a10 [net-_u18-pad1_ ] [int_id_1 ] u18
a11 [net-_u8-pad1_ ] [net-_u10-pad2_ ] [net-_u11-pad2_ net-_u12-pad2_ net-_u13-pad2_ net-_u14-pad2_ ] [net-_u15-pad2_ ] [net-_u16-pad1_ ] [net-_u17-pad1_ ] [net-_u18-pad1_ ] u8
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u12 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u13 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u15 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u16 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u17 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u18 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             interrupt_controller_ip, NgSpice Name: interrupt_controller_ip
.model u8 interrupt_controller_ip(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.001e-00 8e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)
plot v(rst)
plot v(irq3)
plot v(irq2)
plot v(irq1)
plot v(irq0)
plot v(ack0)
plot v(intr)
plot v(int_id_0)
plot v(int_id_1)

display
set xbrushwidth = 3

plot v(intr)+10 v(int_id_0)+20 v(int_id_1)+30 v(ack0)+40 v(irq0)+50 v(irq1)+60 v(irq2)+70 v(irq3) + 80 v(rst)+90 v(clk)+100
.endc
.end
