.title kicad schematic

* u13 rst plot_v1
* u12 clk plot_v1
v1 clk gnd pulse(0 5 0 1n 1n 25n 50n)
v3 enable gnd pulse(0 5 50n 1n 1n 2000n 4000n)
v2 rst gnd pwl(0 5 20n 5 21n 0)
* u1 clk rst enable net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ adc_bridge_3
* u14 enable plot_v1
* u3 net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ random7 random6 random5 random4 random3 random2 random1 random0 dac_bridge_8
* u2 net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ lfsr_prng
* u11 random0 plot_v1
* u9 random2 plot_v1
* u10 random1 plot_v1
* u5 random6 plot_v1
* u6 random5 plot_v1
* u4 random7 plot_v1
* u7 random4 plot_v1
* u8 random3 plot_v1
a1 [clk rst enable ] [net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] u1
a2 [net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ ] [random7 random6 random5 random4 random3 random2 random1 random0 ] u3
a3 [net-_u1-pad4_ ] [net-_u1-pad5_ ] [net-_u1-pad6_ ] [net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ ] u2
* Schematic Name:                             adc_bridge_3, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, Ngspice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             lfsr_prng, Ngspice Name: lfsr_prng
.model u2 lfsr_prng(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 10e-09 500e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(rst)
plot v(clk)
plot v(enable)
plot v(random0)
plot v(random2)
plot v(random1)
plot v(random6)
plot v(random5)
plot v(random7)
plot v(random4)
plot v(random3)
.endc
.end
